data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_131430_1,[C@:1]([C:2](/[C:7](=[N:8]/[C:3]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([C:5]([H:20])([H:21])[H:22])([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[H:10]>>[C@:1]1([C:5]([H:20])([H:21])[H:22])([H:10])[C:2]([H:11])([H:12])[C@@:7]1([N:8]([C:3]([H:14])([H:15])[H:16])[C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[H:13],72.68144250001527
MR_408378_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[N:6]([H:9])[H:10])[C:7](=[O:8])[H:11]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C@:7]([N:5]([C:2]([H:12])([H:13])[H:14])[N:6]([H:9])[H:10])([H:11])[O:8]1,61.13544250002434
MR_60181_1,[C:1]([N:2]([C:3]([O:5][H:10])=[O:7])[C:4]([O:6][H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:3](\[O:5][H:10])[O:7][C:4]([O:6][H:9])=[O:8])([H:11])([H:12])[H:13],47.75588749999002
MR_265061_0,[C:1]([C:2](/[C:4]([C:3]([H:19])([H:20])[H:21])=[C:8](/[N:6]([H:13])[H:14])[H:18])([H:16])[H:17])([N:5]([H:11])[H:12])([C:7](=[O:9])[H:15])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:2]([H:16])([H:17])[C:4]1([C:3]([H:19])([H:20])[H:21])[C:8]([N:6]([H:13])[H:14])([C:7](=[O:9])[H:15])[H:18],71.96295500001014
MR_431372_0,[n:1]1([O:4][H:5])[o:2][o:3]1>>[N:1]([O:2][O:3][H:5])=[O:4],26.00611000004364
MR_150476_1,[C:1](/[C:2]([O:6][H:8])=[N:7]/[C:4](=[C:5](/[N:3]([H:9])[H:10])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([O:6][H:8])[C:5]([N:3]([H:9])[H:10])([H:12])[C:4]([H:11])=[N:7]1)([H:13])([H:14])[H:15],50.63360250003669
MR_263487_0,[C:1]([N:2]([N:4]([H:10])[H:11])[H:9])(/[C:3]([N:5]([H:12])[H:13])=[C:6](/[O:7][H:8])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:2]([H:9])[C:3]1([N:5]([H:12])[H:13])[C:6]([N:4]([H:10])[H:11])([O:7][H:8])[H:16],68.8034924999971
MR_486387_0,[C:1]([O:6][C:2](=[C:3]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[O:7][H:8])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([O:7][H:8])[C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[O:6]1)([H:13])([H:14])[H:15],64.96381999998931
MR_218526_1,[C:1]([C:4]([N:6][N:3]([H:7])[H:8])[H:11])([O:5][C:2]([H:12])([H:13])[H:14])([H:9])[H:10]>>[C:1](=[C:4]([N:6]([N:3]([H:7])[H:8])[O:5][C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10],64.58606499997998
MR_343450_2,[N:1]([O:3]/[C:2](=[N:4]\[H:7])[H:8])([H:5])[H:6]>>[N:1]1([H:5])[C:2]([N:4]([H:6])[H:7])([H:8])[O:3]1,65.55868999998552
MR_100436_0,[C:1]([N:2]([O:4][C:3]([O:5][H:7])=[O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:2]1[C:3]([O:5][H:7])([O:6][H:8])[O:4]1)([H:9])([H:10])[H:11],69.60229999997779
MR_252859_1,[C:1]([C:4](=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])/[C:7](=[C:6](\[O:8][H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:7]([H:11])[C@:6]([O:8][H:9])([H:10])[C:5]1([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],52.18729249996628
MR_178757_0,[C:1](/[N:4]=[C:5](/[C:2]([H:16])([H:17])[H:18])[C:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:10])[H:11])[C:8](=[C:9]([H:22])[H:23])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:6](/[C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])[C:8](=[C:9]([H:22])[H:23])[H:12])([H:13])([H:14])[H:15],70.21850499999147
MR_97007_0,[C:1]([C:3]([C:2]([H:16])([H:17])[H:18])=[O:8])(/[C:4]([N:5]([H:9])[H:10])=[C:7](\[N:6]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1](=[C:4]([N:5]([H:9])[H:10])[C@@:7]([C:3]([C:2]([H:16])([H:17])[H:18])=[O:8])([N:6]([H:11])[H:12])[H:15])([H:13])[H:14],53.68890000002736
MR_364104_2,[C:1]([N:5]([C:3]([H:15])([H:16])[H:17])[O:7][C:2]([H:12])([H:13])[H:14])([N:6]([C:4]([H:18])([H:19])[H:20])[O:8][H:9])([H:10])[H:11]>>[C:1]([N:5]([C:3]([H:15])([H:16])[H:17])[N:6]([C:4]([H:18])([H:19])[H:20])[O:8][H:9])([O:7][C:2]([H:12])([H:13])[H:14])([H:10])[H:11],69.13920500000557
MR_654417_2,[C:1]([C:4]([C:2]([H:17])([H:18])[H:19])=[O:9])([N:5]([H:11])[H:12])([N:8]=[C:3]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([C:2]([H:17])([H:18])[H:19])([O:9][H:14])[N:8]1/[C:3](=[N:6]/[H:13])[N:7]([H:15])[H:16],34.2715399999706
MR_503643_0,[C:1]([C:2](=[C:3]([H:10])[H:11])[O:4][N:5][O:6])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([N:5]=[O:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],58.34369500001032
MR_308937_1,[N:1]([C:2](=[O:5])[H:8])([C:3](=[O:6])[H:9])[O:4][H:7]>>[N:1](=[C:2](\[O:5][C:3](=[O:6])[H:9])[H:8])\[O:4][H:7],40.204552500007935
MR_204844_0,[C:1]([O:5][H:10])([N:7]1[C:2](=[C:4]([H:13])[H:14])[N:6]1[N:8]=[C:3]([H:11])[H:12])=[O:9]>>[C:1]([C:2](=[C:4]([H:13])[H:14])/[N:7]=[N:6]/[N:8]=[C:3]([H:11])[H:12])([O:5][H:10])=[O:9],68.89510749997982
MR_8952_0,[C:1]([C:3]([N:2]([N:4]([H:7])[H:8])[H:6])=[O:5])([H:9])([H:10])[H:11]>>[C:1]([C:3]([N:2][N:4]([H:7])[H:8])[O:5][H:6])([H:9])([H:10])[H:11],45.038812499965815
MR_595345_0,[C:1](/[N:9]=[C:3]([C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[O:8][H:12])/[O:7][H:11])\[O:6][H:10])([H:13])([H:14])[H:15]>>[C:1]([N:9]1[C:3]([O:6][H:10])=[C:4]([O:7][H:11])[C:5]1([C:2]([H:16])([H:17])[H:18])[O:8][H:12])([H:13])([H:14])[H:15],36.71439750000943
